US06204277B1
Ethyl 2-acetylamino-3-(4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate
Sodium hydride (60% in oil, 440 mg, 11.0 mmol) was washed twice with n-hexane (5 ml) under a nitrogen atmosphere, and suspended in N,N-dimethylformamide (50 ml) and ice-cooled. To this suspension was added ethyl N-acetyl-L-tyrosine ester (2.51 g, 10.0 mmol) over 15 min. Ten minutes later when hydrogen bubbling ended, a solution of 2-(5-methyl-2-phenyl-4-oxazolyl)ethyl p-toluenesulfonate (3.57 g, 10.0 mmol) in N,N-dimethylformamide (50 ml) was added. The mixture was stirred at 80° C. for 3 hr, and water (50 ml) and ethyl acetate (100 ml×2) were added for partition. The obtained organic layer was washed with saturated brine (100 ml), dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent; dichloromethane:methanol=98:2) to give the title compound (1.63 g, yield 37%) as a white solid.

reactant | Sodium hydride | 11.0 mmol, 440 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(5-methyl-2-phenyl-4-oxazolyl)ethyl p-toluenesulfonate | 10.0 mmol, 3.57 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC=1N=C(OC1C)C1=CC=CC=C1)C | C19H19NO4S
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 5 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-acetylamino-3-(4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate | 1.63 g, yield 37% | C(C)(=O)NC(C(=O)OCC)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C25H28N2O5
